US06689922B1
6-{3-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylhexan-2-ol
0.09 ml of concentrated sulphuric acid are added to 44 mg (0.1 mmol) of [2-hydroxymethyl-5-(2-{3-[5-methyl-5-(tetrahydropyran-2-yloxy)hexyl]-phenyl}vinyl)phenyl]methanol in 1 ml of THF and 1 ml of water. The solution is heated at 40° C. for 48 hours. Water is added and the mixture is extracted with ether. The organic phase is dried over magnesium sulphate and concentrated. The product is triturated in an ether-hexane mixture and is then filtered and dried.

reactant | sulphuric acid | 0.09 ml | S(O)(O)(=O)=O | H2O4S
reactant | [2-hydroxymethyl-5-(2-{3-[5-methyl-5-(tetrahydropyran-2-yloxy)hexyl]-phenyl}vinyl)phenyl]methanol | 0.1 mmol, 44 mg | OCC1=C(C=C(C=C1)C=CC1=CC(=CC=C1)CCCCC(C)(OC1OCCCC1)C)CO | C28H38O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 6-{3-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylhexan-2-ol | OCC=1C=C(C=CC1CO)C=CC=1C=C(C=CC1)CCCCC(C)(O)C | C23H30O3
